US07399775B2
5-(4-Chlorophenylsulfonyl)-5-(2,5-difluorophenyl)-1-hexanol
After addition of tetrabutylammonium fluoride (a 1M tetrahydrofuran solution, 0.978 ml, 0.978 mmol) to a solution of 2-[5-(t-butyldimethylsilyloxy)-1-[(4-chlorophenyl)sulfonyl]-1-methylpentyl]-1,4-difluorobenzene (164 mg, 0.326 mmol) in tetrahydrofuran (4 ml), the mixture was stirred at room temperature for 3 hours. The reaction mixture was diluted with diethyl ether, washed successively with saturated ammonium chloride, water and brine, dried over MgSO4, and then concentrated. The residue thus obtained was purified by medium-pressure chromatography on a silica gel column (50% ethyl acetate-hexane), whereby the title compound (122 mg, 96%) was obtained as a colorless oil.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-[5-(t-butyldimethylsilyloxy)-1-[(4-chlorophenyl)sulfonyl]-1-methylpentyl]-1,4-difluorobenzene | 0.326 mmol, 164 mg | [Si](C)(C)(C(C)(C)C)OCCCCC(C)(S(=O)(=O)C1=CC=C(C=C1)Cl)C1=C(C=CC(=C1)F)F | C24H33ClF2O3SSi
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | 5-(4-Chlorophenylsulfonyl)-5-(2,5-difluorophenyl)-1-hexanol | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCCO)(C)C1=C(C=CC(=C1)F)F | C18H19ClF2O3S
